US08389523B2
3.0 g (11.7 mmol) of ethyl 2-oxo-1-(2-propynyl)-1,2-dihydroquinoxaline-3-carboxylate and 3.28 g (35.1 mmol) of chloroacetaldoxime were dissolved in tetrahydrofuran (30 mL), and 3.55 g (35.1 mmol) of triethylamine was added dropwise at a temperature in the range of 0° C. to 5° C. The mixture was stirred for 3 days at room temperature. After confirming the completion of the reaction, the solvent was distilled off under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with an aqueous solution of citric acid, dried over anhydrous sodium sulfate, and concentrated. The solid matter thus obtained was washed with diisopropyl ether, to obtain 3.4 g (yield: 93%) of ethyl 1-[(3-methylisoxazol-5-yl)methyl]-2-oxo-1,2-dihydroquinoxaline-3-carboxylate as a white powder.

reactant | ethyl 2-oxo-1-(2-propynyl)-1,2-dihydroquinoxaline-3-carboxylate | 11.7 mmol, 3.0 g | O=C1N(C2=CC=CC=C2N=C1C(=O)OCC)CC#C | C14H12N2O3
reactant | chloroacetaldoxime | 35.1 mmol, 3.28 g | ClCC=NO | C2H4ClNO
reactant | triethylamine | 35.1 mmol, 3.55 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | ethyl 1-[(3-methylisoxazol-5-yl)methyl]-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 3.4 g, yield: 93% | CC1=NOC(=C1)CN1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C16H15N3O4
